US06008196
b) Preparation of Boc-Val-Pro-Val-CF2CF3
Dissolve Boc-Val-Pro-OH (314 mg, 1.0 mmol) in methylene chloride (4 mL) and add N-methylmorpholine (252 mg, 2.5 mmol). Cool to -22° C. and add isobutylchloroformate (136 mg, 1.0 mmol). Stir for 20 minutes and add to H-Val-CF2CF3.hydrochloride (1.1 mmol). Stir for 1 hour at -22° C., allow to warm to room temperature and stir for 3 hours. Purify by silica gel chromatography (40% ethyl acetate/hexane) to give the title compound (405 mg).

reactant | Boc-Val-Pro-OH | 1.0 mmol, 314 mg | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C15H26N2O5
reactant | N-methylmorpholine | 2.5 mmol, 252 mg | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.0 mmol, 136 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | H-Val-CF2CF3.hydrochloride | 1.1 mmol | N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)F.Cl
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | Boc-Val-Pro-Val-CF2CF3 | 405 mg | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)F)CCC1)C(=O)OC(C)(C)C | C22H34F5N3O5
